US07459554B2
3-[8-Amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]-benzamide:
Gaseous NH3 was condensed into a cooled (−78° C.) solution of 3-[1-(3-benzyloxyphenyl)-8-chloroimidazo[1,5-a]pyrazin-3-yl]-benzoic acid methyl ester (102 mg, 0.216 mmol) in NH3/i-PrOH (2M, 3 mL) in a pressure tube until the volume had doubled. The tube was sealed and heated to 110° C. for 2 d. After excess NH3/i-PrOH was removed in vacuo, the crude material was taken up in CH2Cl2, adsorbed onto Hydromatrix, and purified by chromatography on silica gel [Jones Flashmaster, 5 g/25 mL cartridge, eluting with MeOH:CH2Cl2 1%→5%], yielding the title compound, as an off-white solid; 1H NMR (d-DMSO, 400 MHz) δ 5.18 (s, 2H), 6.30 (s, br, —NH2), 7.10-7.18 (m, 2H), 7.25-7.58 (m, 9H), 7.67 (t, J=7.6 Hz, 1H), 7.81 (d, J=4.4 Hz, 1H), 8.00 (d, J=7.6 Hz, 2H), 8.16 (s, 1H), 8.31 (s, 1H); MS (ES+): m/z 436.0 (100) [MH+].

reactant | NH3 | N | H3N
reactant | 3-[1-(3-benzyloxyphenyl)-8-chloroimidazo[1,5-a]pyrazin-3-yl]-benzoic acid methyl ester | 0.216 mmol, 102 mg | COC(C1=CC(=CC=C1)C1=NC(=C2N1C=CN=C2Cl)C2=CC(=CC=C2)OCC2=CC=CC=C2)=O | C27H20ClN3O3
reactant | NH3 i-PrOH | 2M, 3 mL | N.CC(C)O
product | 3-[8-Amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]-benzamide | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)C=2C=C(C(=O)N)C=CC2 | C26H21N5O2
